US06559164B1
3-(1-Methyl-3-indolyl)-4-(1-methyl-6-nitro-3-indolyl)-1H-pyrrole-2,5-dione (20 mg 0.05 mmol) (See Davis U.S. Pat. No. 5,057,614) was dissolved in DMF and treated with Cs2CO3 (49 mg, 0.15 mmol) for a few minutes, the chloromethyl ester (33 mg, 0.15 mmol) prepared in step a) above was added and the reaction was stirred at room temperature for 30 minutes. Aqueous workup, followed by purification by flash chromatography yielded decanoic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester (yield—58%).

reactant | 3-(1-Methyl-3-indolyl)-4-(1-methyl-6-nitro-3-indolyl)-1H-pyrrole-2,5-dione | 0.05 mmol, 20 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C22H16N4O4
reactant | Cs2CO3 | 0.15 mmol, 49 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | CN(C)C=O | C3H7NO
product | decanoic acid 3-(1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-pyrrol-1-ylmethyl ester | yield—58% | CN1C=C(C2=CC=CC=C12)C=1C(N(C(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)COC(CCCCCCCCC)=O)=O | C33H36N4O6
